US07538123B2
(3) 8-Allyl-7-methoxy-2,2-dimethyl-4-oxochroman
567 mg of 8-allyl-7-hydroxy-2,2-dimethyl-4-oxochroman was dissolved in 15 ml of N,N-dimethylformamide. Thereafter, 0.51 g of potassium carbonate and 0.42 g of iodomethane were added to the reaction solution, and the obtained mixture was then stirred at room temperature overnight. The reaction solution was diluted with ethyl acetate, and then washed with a saturated ammonium chloride aqueous solution and a saturated sodium chloride aqueous solution. The organic layer was dried over magnesium sulfate, and then concentrated under a reduced pressure. The residue was purified by silica gel column chromatography (hexane-ethyl acetate), so as to obtain 582 mg of the subject compound.

reactant | 8-allyl-7-hydroxy-2,2-dimethyl-4-oxochroman | 567 mg | C(C=C)C=1C(=CC=C2C(CC(OC12)(C)C)=O)O | C14H16O3
reactant | potassium carbonate | 0.51 g | C([O-])([O-])=O.[K+].[K+]
reactant | iodomethane | 0.42 g | IC | CH3I
solvent | N,N-dimethylformamide | 15 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 8-Allyl-7-methoxy-2,2-dimethyl-4-oxochroman | 582 mg | C(C=C)C=1C(=CC=C2C(CC(OC12)(C)C)=O)OC | C15H18O3
